US07169890B2
Sodium hydride, as a 60% mineral oil dispersion, (6.8 g, 169 mmol) was introduced into a dry round bottomed flask, and dry tetrahydrofuran (220 ml) was added thereto. The flask was stoppered with a serum cap, cooled in ice and flushed with nitrogen. Ethyl acetoacetate (20 g, 154 mmol) was added dropwise to the cooled and stirred slurry and the reaction was stirred for 10 minutes after the addition was complete. The solution was cooled at −78° C. and a solution of n-butyl lithium (85 ml of 2M solution in cyclohexane) was added dropwise to the reaction mixture and stirring was continued for a further 10 minutes. 3-Methylbutyraldehyde (154 mmol) was then added in one portion. After a further 10 minutes the reaction was poured in a HCl solution (50 ml of 37% HCl in 400 of water). Diethyl ether was added; the aqueous layer was removed and extracted again with 2×40 ml of diethyl ether. The ethereal extracts were combined, washed with a saturated brine solution, dried over sodium sulfate, filtered, and the solvent removed under reduced pressure. The oily residue was purified by flash chromatography using hexane:ethyl acetate=8:2 as eluent obtaining 16.6 g of 5-hydroxy-7-methyl-3-oxo-octanoic acid ethyl ester. Yield 50%.

reactant | Sodium hydride | [H-].[Na+]
reactant | Ethyl acetoacetate | 154 mmol, 20 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | n-butyl lithium | 2M, 85 ml | C(CCC)[Li]
reactant | 3-Methylbutyraldehyde | 154 mmol | CC(CC=O)C | C5H10O
reactant | HCl | 50 ml | Cl | ClH
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | 5-hydroxy-7-methyl-3-oxo-octanoic acid ethyl ester | 16.6 g, Yield 50% | C(C)OC(CC(CC(CC(C)C)O)=O)=O | C11H20O4
